### ISSUE TITLE
D5c: re-prove lll headline theorems for the dispatched lll via certCheck_sound

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#6616]
## Current state

D5b (#6615) makes `lll` dispatch between `lllNative` and a `certCheck`-accepted external candidate. D1 (#6610) gives `short_vector_bound_of_size_bound` and the η surfaces; D4 (#6613) gives `certCheck_sound`.

## Deliverables

Per `SPEC/Libraries/hex-lll.md` §"delta-LLL-reduced" and §"Certified external dispatch":

1. Re-establish `lll_same_lattice`, `lll_reduced` (at η = 11/20), and `lll_short_vector` (η = 11/20, `α = 1/(δ − 121/400)`, `121/400 < δ`) for the dispatched `lll`, by cases on the dispatch:
   - certified branch: use **only** `certCheck_sound` to obtain `isLLLReduced B' δ (11/20)`, same-lattice, and `B'.independent`, then `short_vector_bound_of_size_bound`.
   - native branch: from `lllNative`'s `|μ| ≤ 1/2` (η = 1/2) by monotonic weakening to η = 11/20.

The dispatch's correctness must depend only on `certCheck_sound`, not on checker internals. Zero `sorry`/`axiom`.

## Library placement

HexLLL/Basic.lean.

1. **SPEC §:** `hex-lll.md` §"Certified external dispatch" (#6604): all headline theorems hold for the dispatched `lll` by cases; `certCheck_sound` is the single trusted bridge.
2. **Mathlib?** No (Mathlib-free headline; HexLLLMathlib Euclidean restatement is D6).
3. **Mathlib status:** n/a.
4. **Missing infra:** D5b, D1 (#6610), D4 (#6613).

## Context

- SPEC: SPEC/Libraries/hex-lll.md (#6604).

## Verification

- `lake build` green; all three headline theorems proved for the dispatched `lll`.
- Zero `sorry`/`axiom`.

## Out of scope

- The Mathlib Euclidean headline (D6), conformance (D7), bench (D8).

library: HexLLL
depends-on: #6610
depends-on: #6613
depends-on: #6615

---
**Placement note (author):** `certCheck_sound` lives in **HexLLLMathlib/Basic.lean** (it composes the Mathlib `lllReducedInt_sound`), so the dispatched-`lll` theorems that route through it (`lll_reduced`, `lll_short_vector` at η=11/20) belong in **HexLLLMathlib**, not HexLLL. The same-lattice piece may stay Mathlib-free via `sameLatticeCert_sound` (HexLLL/Basic.lean:60) where the proof allows. Set library accordingly.

**Comment by kim-em** [comment]
Claimed by session `1b337a48-ae70-4030-9ffe-97aaf92b8ae1` on branch `agent/1b337a48`

**Comment by kim-em** [comment]
All three headline theorems requested by this directive are already
proven on the dispatched `Hex.lll` in `HexLLLMathlib/Independent.lean`,
shipped by D5b (#6633). The case-split structure matches what this
directive prescribes verbatim.

**`lll_reduced` at η = 11/20** — `lll_isLLLReduced`
(`HexLLLMathlib/Independent.lean:2407-2418`):

```lean
theorem lll_isLLLReduced (b : Matrix Int n m) (δ : Rat)
    (hδ : (121 / 400 : Rat) < δ) (hδ' : δ ≤ 1) (hn : 1 ≤ n)
    (hind : b.independent) :
    isLLLReduced (lll b δ hδ hδ' hn hind) δ (11 / 20) := by
  unfold lll
  cases hd : LLLProvider.dispatch b δ with
  | none =>
      have hred := lllNative_isLLLReduced b δ
        (Hex.one_quarter_lt_of_eta_eleven_twentieths hδ) hδ' hn hind
      exact Hex.isLLLReduced.mono_η _ (by grind) (by grind) hred
  | some B' =>
      exact (dispatch_some_property hd).2.2
```

**`lll_same_lattice`** — `lll_memLattice_iff`
(`HexLLLMathlib/Independent.lean:2421-2431`):

```lean
theorem lll_memLattice_iff (b : Matrix Int n m) (δ : Rat)
    (hδ : (121 / 400 : Rat) < δ) (hδ' : δ ≤ 1) (hn : 1 ≤ n)
    (hind : b.independent) (v : Vector Int m) :
    Matrix.memLattice (lll b δ hδ hδ' hn hind) v ↔
      Matrix.memLattice b v := by
  unfold lll
  cases hd : LLLProvider.dispatch b δ with
  | none =>
      exact lllNative_memLattice_iff b δ
        (Hex.one_quarter_lt_of_eta_eleven_twentieths hδ) hδ' hn v
  | some B' =>
      exact ((dispatch_some_property hd).1 v).symm
```

**`lll_short_vector` at η = 11/20** — `lll_short_vector`
(`HexLLLMathlib/Independent.lean:2450-2470`):

```lean
theorem lll_short_vector
    (b : Matrix Int n m) (δ : Rat)
    (hδ : (121 / 400 : Rat) < δ) (hδ' : δ ≤ 1) (hn : 1 ≤ n)
    (hind : b.independent)
    {v : Vector Int m} (hv : Matrix.memLattice b v) (hv' : v ≠ 0) :
    ((Vector.normSq ((lll b δ hδ hδ' hn hind).row
        ⟨0, Nat.lt_of_lt_of_le Nat.zero_lt_one hn⟩) : Int) : Rat) ≤
      (1 / (δ - 121 / 400)) ^ (n - 1) *
        ((Vector.normSq v : Int) : Rat) := by
  have hred : isLLLReduced (lll b δ hδ hδ' hn hind) δ (11 / 20) :=
    lll_isLLLReduced b δ hδ hδ' hn hind
  have hind' : (lll b δ hδ hδ' hn hind).independent :=
    lll_independent b δ hδ hδ' hn hind
  have hv_lll : Matrix.memLattice (lll b δ hδ hδ' hn hind) v :=
    (lll_memLattice_iff b δ hδ hδ' hn hind v).mpr hv
  have hδη : (11 / 20 : Rat) * (11 / 20) < δ := by
    have : (11 / 20 : Rat) * (11 / 20) = 121 / 400 := by grind
    grind
  have hbnd := Hex.short_vector_bound_of_size_bound
    (lll b δ hδ hδ' hn hind)
    hind' hred (by grind) hδη hδ' hn hv_lll hv'
  have hηη : (11 / 20 : Rat) * (11 / 20) = 121 / 400 := by grind
  simpa [hηη] using hbnd
```

The dispatch's correctness depends on `certCheck_sound` alone: the
certified branch consumes only `dispatch_some_property`
(`HexLLLMathlib/Independent.lean:2396-2401`), which composes
`LLLProvider.dispatch_some_certCheck` (the Mathlib-free Bool extraction
that asserts an accepted dispatch result exhibits integer transforms
witnessing `certCheck B B' U V δ (11/20) = true`) with
`HexLLLMathlib.certCheck_sound` (`HexLLLMathlib/Basic.lean:777-788`),
the single trusted bridge. Checker internals
(`Matrix.sameLatticeCert`, `lllReducedInt`, the integer arithmetic
underneath) are not referenced by any of the three theorems above.

The native branch routes through `lllNative_isLLLReduced` (η = 1/2)
plus `isLLLReduced.mono_η` for the reducedness piece, and through
`lllNative_memLattice_iff` for same-lattice, exactly as the directive
specifies. `short_vector_bound_of_size_bound` is then applied at
η = 11/20 to give the public `α = 1/(δ − 121/400)` bound.

Bonus: `lll_independent` (`:2434-2444`) and
`lll_first_row_norm_sq_le_unconditional` (`HexLLLMathlib/Basic.lean`
via the `lll` capstone, see `HexLLLMathlib/Independent.lean:2537-2560`)
are also shipped.

Verification:

- `lake build HexLLLMathlib`: green at `4ee60490`.
- `grep -nE '\\bsorry\\b|\\baxiom\\b' HexLLL/Basic.lean
  HexLLLMathlib/Basic.lean HexLLLMathlib/Independent.lean`: no matches.

PR #6633's description explicitly states: "`lll_short_vector` and
`lll_first_row_norm_sq_le_unconditional` consume the headline theorems
abstractly and need no edits" — D5b's scope swallowed D5c's
deliverables.

Closing as fully satisfied by D5b (#6633).

**Comment by kim-em** [comment]
Deliverables 1–3 already in place (see preceding comment). Verified `lake build HexLLLMathlib` green and no sorry/axiom in the relevant files.
